US07943651B2
Intermediate 22: Methyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate
Acetyl chloride (1000 mL, 11.5 mol) was added slowly to cold methanol (10.84 L at 0±3° C.), under an atmosphere of nitrogen, while maintaining the temperature below 5° C. The reaction mixture was stirred for a further 35 min at 0±3° C. and then 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoic acid (1084.2 g, 4.06 mol) was added. The reaction mixture was heated at reflux for 2.5 h and then the volume was reduced by distillation to approximately half the volume. Isopropyl acetate (10.84 L) was added maintaining the temperature at above 50° C. and the temperature held at 60° C. for 1 hour. The solution was cooled to 0° C. over a period of 3 hours and aged at 3±3° C. for a further ca. 10 hours. The precipitate was filtered and washed with a mixture of chilled isopropyl acetate:methanol (ca. 10:1, 3.26 L at 3±3° C.) and then chilled isopropyl acetate (2.1 L at 3±3° C.). The solid was dried in vacuo at 55° C. to afford the title compound as its hydrochloride salt (933.2 g): LCMS: tRET=3.20 min; MH+=282.min. A proportion of this material (874.1 g, 2.76 mol) in a mixture of water (5.28 L) and 2-methyltetrahydrofuran (8.7 L) was treated with sodium hydroxide (1M, 2720 mL then 2M, 13 mL) (until pH=7 is reached). The organic phase was separated and washed with water (6.1 L) and the aqueous layer extracts back extracted with 2-methyltetrahydrofuran (4.4 L). The combined organic extracts were evaporated to near dryness and then toluene (4.4 L) was added and the mixture evaporated to afford the title compound (767.4 g).

reactant | Acetyl chloride | 11.5 mol, 1000 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoic acid | 4.06 mol, 1084.2 g | NC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1 | C15H13N3O2
solvent | methanol | 10.84 L | CO | CH4O
product | Methyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate | NC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OC)C=CC1 | C16H15N3O2
